US09107916B2
A. (2E)-3-(dimethylamino)-1-[4-(dimethylamino)phenyl]prop-2-en-1-one
A solution of 1-[4-(dimethylamino)phenyl]ethanone (500 mg, 3.1 mmol) in DMF-DMA (10 mL), toluene (10 mL), and AcOH (2 drops), was heated under reflux conditions for 48 h. The solution was concentrated and purified by flash column chromatography (hexanes:EtOAc=8:2˜1:1) to give the title compound (121 mg, 18%) as a yellow solid.

reactant | 1-[4-(dimethylamino)phenyl]ethanone | 3.1 mmol, 500 mg | CN(C1=CC=C(C=C1)C(C)=O)C | C10H13NO
solvent | DMF-DMA | 10 mL | CN(C)C(OC)OC | C5H13NO2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | AcOH | 2 drops | CC(=O)O | C2H4O2
product | (2E)-3-(dimethylamino)-1-[4-(dimethylamino)phenyl]prop-2-en-1-one | 121 mg, 18% | CN(/C=C/C(=O)C1=CC=C(C=C1)N(C)C)C | C13H18N2O
